US05169975
62.4 g (0.2 mol) of 3-chloro-4-(7-isopropyl-1,4-dimethyl-3-azulenyl)cyclobut-3-ene-1,2-dione were refluxed in 200 ml of dioxane, 40 ml of water and 2 ml of concentrated hydrochloric acid for 8 hours. The solvent was removed under reduced pressure, and the remaining oily residue was crystallized by adding dichloromethane. 36.5 g (62%) of 3-hydroxy-4-(7-isopropyl-1,4-dimethyl-3-azulenyl)cyclobut-3-ene-1,2-dione were obtained as dark brown crystals of melting point 120°-123° C. The substance was used without further purification for synthesizing dyes.

reactant | 3-chloro-4-(7-isopropyl-1,4-dimethyl-3-azulenyl)cyclobut-3-ene-1,2-dione | 0.2 mol, 62.4 g | ClC=1C(C(C1C=1C=C(C2=CC(=CC=C(C12)C)C(C)C)C)=O)=O | C19H17ClO2
reactant | water | 40 ml | O | H2O
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 3-hydroxy-4-(7-isopropyl-1,4-dimethyl-3-azulenyl)cyclobut-3-ene-1,2-dione | 36.5 g, 62% | OC=1C(C(C1C=1C=C(C2=CC(=CC=C(C12)C)C(C)C)C)=O)=O | C19H18O3
